US08871760B2
To a solution of 5-amino-4-bromo-2-chloro-phenol (0.338 g, 1.52 mmol) in NMP (5 ml) was added cesium carbonate (0.644 g, 1.97 mmol), sodium iodide (0.228 g, 1.52 mmol) and 2-bromoethoxy tertbutyldimethylsilane (0.424 g, 1.97 mmol). The mixture was heated to 100° C. for two hours, then cooled to room temperature. Water was added and the mixture was extracted with EtOAc. The combined organic extracts were washed with water and brine, dried over MgSO4, filtered and concentrated to dryness under reduced pressure. Purification of the residue by flash chromatography (hex:EtOAc/8:2) gave 2-bromo-5-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-4-chloro-phenylamine (0.505 g, 78%) as a white solid.

reactant | 5-amino-4-bromo-2-chloro-phenol | 1.52 mmol, 0.338 g | NC=1C(=CC(=C(C1)O)Cl)Br | C6H5BrClNO
reactant | cesium carbonate | 1.97 mmol, 0.644 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | sodium iodide | 1.52 mmol, 0.228 g | [I-].[Na+]
reactant | 2-bromoethoxy tertbutyldimethylsilane | 1.97 mmol, 0.424 g | BrCCO[Si](C)(C)C(C)(C)C | C8H19BrOSi
solvent | NMP | 5 ml | CN1CCCC1=O | C5H9NO
solvent | Water | O | H2O
product | 2-bromo-5-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-4-chloro-phenylamine | 0.505 g, 78% | BrC1=C(C=C(C(=C1)Cl)OCCO[Si](C)(C)C(C)(C)C)N | C14H23BrClNO2Si
